US08703941B2
Synthesis of tert-butyl N-(4-[[6-(propan-2-yl)thieno[2,3-d]pyrimidin-4-yl]oxy]cyclohexyl)carbamate.
To a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of tert-butyl N-(4-hydroxycyclohexyl)carbamate (3.3 g, 15.33 mmol, 1.10 equiv) in tetrahydrofuran (20 mL). This was followed by the addition of sodium hydride (800 mg, 33.33 mmol, 2.36 equiv) in portions at 0-5° C. The resulting solution was stirred for 2.5 h at room temperature. To this was added a solution of commercially available 4-chloro-6-(propan-2-yl)thieno[2,3-d]pyrimidine (3.0 g, 14.10 mmol, 1.00 equiv) in tetrahydrofuran (10 mL) at 5-10° C. The resulting solution was stirred overnight at room temperature. The reaction mixture was cooled to 5-10° C. with a water/ice bath. The reaction was then quenched by the addition of 100 mL of water. The resulting mixture was concentrated under vacuum. The solids were collected by filtration. This resulted in 4.8 g (87%) of tert-butyl N-(4-[[6-(propan-2-yl)thieno[2,3-d]pyrimidin-4-yl]oxy]cyclohexyl)carbamate as a yellow solid. MS: m/z 392 (M+H)+.

reactant | tert-butyl N-(4-hydroxycyclohexyl)carbamate | 15.33 mmol, 3.3 g, 1.10 equiv | OC1CCC(CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | sodium hydride | 33.33 mmol, 800 mg, 2.36 equiv | [H-].[Na+]
reactant | 4-chloro-6-(propan-2-yl)thieno[2,3-d]pyrimidine | 14.10 mmol, 3.0 g, 1.00 equiv | ClC=1C2=C(N=CN1)SC(=C2)C(C)C | C9H9ClN2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl N-(4-[[6-(propan-2-yl)thieno[2,3-d]pyrimidin-4-yl]oxy]cyclohexyl)carbamate | CC(C)C1=CC2=C(N=CN=C2OC2CCC(CC2)NC(OC(C)(C)C)=O)S1 | C20H29N3O3S
